US04599344
N-[4-(3-(1-Azabicyclo[2.2.2]oct-2-yl)propyl)phenyl]methanesulfonamide hydrochloride
In a manner similar to Example X react 2-[3-(4-aminophenyl)propyl]-1-azabicyclo[2.2.2]octane with methanesulfonyl chloride to give the title compound.

reactant | 2-[3-(4-aminophenyl)propyl]-1-azabicyclo[2.2.2]octane | NC1=CC=C(C=C1)CCCC1N2CCC(C1)CC2 | C16H24N2
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
product | N-[4-(3-(1-Azabicyclo[2.2.2]oct-2-yl)propyl)phenyl]methanesulfonamide hydrochloride | Cl.N12C(CC(CC1)CC2)CCCC2=CC=C(C=C2)NS(=O)(=O)C | InChI=1S/C17H26N2O2S.ClH/c1-22(20,21)18-16-7-5-14(6-8-16)3-2-4-17-13-15-9-11-19(17)12-10-15;/h5-8,15,17-18H,2-4,9-13H2,1H3;1H
